US06960598B2
Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl-[1,8]naphthyridin-4-yl)phenyl ester (30.0 mg, 0.068 mmol) was coupled to 3-acetylphenyl-boronic acid (14.5 mg, 0.089 mmol) as described in Example 35 part c), affording 1-[2′-fluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-3-yl]ethanone (16.8 mg, 60%). δH (360 MHz, CDCl3) 2.66 (3H, s), 7.39-7.44 (1H, dd, J 9.8 and 8.4), 7.47-7.52 (1H, m), 7.58-7.62 (3H, m), 7.80-7.85 (2H, m), 8.01 (1H, dt, J 7.7, 1.2), 8.18 (1H, d, J 1.4), 8.55 (1H, d, J 8.8), 9.30 (1H, d, J 4.6). m/z (ES+) 411 [MH]+.

reactant | Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl-[1,8]naphthyridin-4-yl)phenyl ester | 0.068 mmol, 30.0 mg | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C16H7F7N2O3S
reactant | 3-acetylphenyl-boronic acid | 0.089 mmol, 14.5 mg | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
product | 1-[2′-fluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-3-yl]ethanone | 16.8 mg, 60% | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)C1=CC(=CC=C1)C(C)=O | C23H14F4N2O
